US04652573
E. 2,6-Dimethyl-3-(2-isoindolinylcarbethoxy)-4-(3-nitrophenyl)-5-carbomethoxy-1,4-dihydropyridine
A solution of 1.54 g (6.2 m mol) of 2-isoindolinylethyl acetoacetate, 0.942 g (6.2 m mol) of 3-nitrobenzaldehyde and 0.717 g (6.2 m mol) of methyl 3-aminocrotonate in 37 ml of 2-propanol was heated at 80° C. under nitrogen for 48 hours. The crude mixture was concentrated in vacuo and subjected to flash chromatography (silica gel, 1:1 petroleum ether/ethyl acetate) to give 1.38 g (46%) of a brown solid, m.p. 63°-69° C. NMR: (CDCl3) δ 2.29 (6H, s), 2.8 (2H, t), 3.5 (2H, s), 3.8 (4H, s), 4.12 (2H, t), 5.0 (1H, s), 6.2 (1H, bs), 7.33 (8H, m).

reactant | 2-isoindolinylethyl acetoacetate | 1.54 g | C(CC(=O)C)(=O)OCCC1NCC2=CC=CC=C12 | C14H17NO3
reactant | 3-nitrobenzaldehyde | 0.942 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | methyl 3-aminocrotonate | 0.717 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | 2-propanol | 37 ml | CC(C)O | C3H8O
product | 2,6-Dimethyl-3-(2-isoindolinylcarbethoxy)-4-(3-nitrophenyl)-5-carbomethoxy-1,4-dihydropyridine | 1.38 g, 46% | CC=1NC(=C(C(C1C(=O)OCCC1NCC2=CC=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C26H27N3O6
